US07728025B2
(Step 2) Production of tert-butyl (3-fluoro-4-(6-methanesulfonyl-pyridin-3-yloxy)-phenyl)-carbamate
4.00 g of 5-chloro-2-methanesulfonyl-pyridine and 8.80 g of cesium carbonate were added to an N-methylpyrrolidinone (50 ml) solution of 4.74 g of tert-butyl (3-fluoro-4-hydroxy-phenyl)-carbamate obtained in (step 1), and the reaction liquid was stirred at 100° C. for 2 hours. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline in order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1) to obtain the entitled compound.

reactant | 5-chloro-2-methanesulfonyl-pyridine | 4.00 g | ClC=1C=CC(=NC1)S(=O)(=O)C | C6H6ClNO2S
reactant | cesium carbonate | 8.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylpyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
reactant | tert-butyl (3-fluoro-4-hydroxy-phenyl)-carbamate | 4.74 g | FC=1C=C(C=CC1O)NC(OC(C)(C)C)=O | C11H14FNO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3-fluoro-4-(6-methanesulfonyl-pyridin-3-yloxy)-phenyl)-carbamate | FC=1C=C(C=CC1OC=1C=NC(=CC1)S(=O)(=O)C)NC(OC(C)(C)C)=O | C17H19FN2O5S
